US08097617B2
Step 1.2: (2-Amino-pyridin-4-ylmethyl)-carbamic acid tert-butyl ester
To a solution of 4-aminomethyl-pyridin-2-ylamine (11.36 g, 92.2 mmol) and Et3N (16.7 mL, 120.0 mmol) in MeOH (150 mL) was added a solution of Boc2O (20.2 g, 92.2 mmol) in MeOH (20 mL) at 0° C. The reaction mixture was stirred at 0° C. for 1 h and concentrated under vacuum. The residue was dissolved in AcOEt (800 mL) and washed with water (200 mL) and brine (100 mL). The organic layer was dried over Na2SO4, filtered, and evaporated to dryness to yield the crude title compound (17.55 g) as a yellow foam, which was used without further purification. MS: 224 [M+1]+; HPLC: AtRet=0.88.

reactant | 4-aminomethyl-pyridin-2-ylamine | 92.2 mmol, 11.36 g | NCC1=CC(=NC=C1)N | C6H9N3
reactant | Et3N | 120.0 mmol, 16.7 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 92.2 mmol, 20.2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 150 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
product | (2-Amino-pyridin-4-ylmethyl)-carbamic acid tert-butyl ester | 17.55 g | C(C)(C)(C)OC(NCC1=CC(=NC=C1)N)=O | C11H17N3O2
